US07569727B2
Preparation of 6-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-3,4-dihydro-2H-naphthalen-1-one O-methyl-oxime of formula
1.24 g of 6-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-3,4-dihydro-2H-naphthalen-1-one, 0.23 g of sodium acetate and 0.23 g of O-methylhydroxylamine hydrochloride are stirred in 10 ml of ethanol at 50° C. for 18 hours. The reaction mixture is poured into water and extracted with ethyl acetate. After concentration of the organic phases and purification over silica gel, the title compound is obtained. M.p. 75-77° C.

reactant | 6-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-3,4-dihydro-2H-naphthalen-1-one | 1.24 g | ClC1=C(OCCCOC=2C=C3CCCC(C3=CC2)=O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C22H20Cl4O4
reactant | sodium acetate | 0.23 g | C(C)(=O)[O-].[Na+]
reactant | O-methylhydroxylamine hydrochloride | 0.23 g | Cl.CON
reactant | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-{3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-3,4-dihydro-2H-naphthalen-1-one O-methyl-oxime | CON=C1CCCC2=CC(=CC=C12)OCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C23H23Cl4NO4
